US03989680
To a solution of 7.5 g. of nitrosobenzene in 80 ml. of ethanol at 0° was added in a dropwise manner 4.2 g. of unsymmetrical-dimethylhydrazine as a saturated solution in ethanol. After stirring at 0° for 2 hours, the reaction mixture was allowed to warm to 25° C. and stirred for 16 hours longer. The solution was concentrated in vacuo, and the red-brown oil was chromatographed on silica gel in benzene. The product was eluted with 5-10 percent ethyl acetate in benzene. Three grams of 3,3-dimethyl-1-phenyltriazene-1-oxide was obtained as a light brown oil which gave a suitable n.m.r. spectrum.

reactant | nitrosobenzene | N(=O)C1=CC=CC=C1 | C6H5NO
reactant | unsymmetrical-dimethylhydrazine | CN(C)N | C2H8N2
solvent | ethanol | C(C)O | C2H6O
product | 3,3-dimethyl-1-phenyltriazene-1-oxide | Three grams | CN(N=[N+](C1=CC=CC=C1)[O-])C | C8H11N3O
